.subckt SPCROSS IN1 IN2 O1 O2 POS NEG
S1 IN1 O2 POS NEG MYSC1
S2 IN2 O1 POS NEG MYSC2
S3 IN1 O1 NEG POS MYSC3
S4 IN2 O2 NEG POS MYSC4
.model MYSC1 SW(Ron=.01 Roff=10000000k Vh=.25 Vt=.5)
.model MYSC2 SW(Ron=.01 Roff=10000000k Vh=.25 Vt=.5)
.model MYSC3 SW(Ron=.01 Roff=10000000k Vh=.25 Vt=-.5)
.model MYSC4 SW(Ron=.01 Roff=10000000k Vh=.25 Vt=-.5)
.ends