.subckt SPDT COM NO NC POS NEG
S1 COM NO POS NEG MYSW1
S2 COM NC NEG POS MYSW2
.model MYSW1 SW(Ron=.01 Roff=1000000k Vh=.25 Vt=.5)
.model MYSW2 SW(Ron=.01 Roff=1000000k Vh=.25 Vt=-.5)
.ends